* RSpice OpAmp Library
* Standard operational amplifier behavioral macromodels
*
* Usage: .INCLUDE opamp.lib
*        XU1 INP INM OUT VCC VEE LM741
*
* Models included:
*   LM741   - Classic BJT opamp (1 MHz GBW)
*   TL072   - JFET input dual opamp (3 MHz GBW)
*   TL074   - JFET input quad opamp (3 MHz GBW)
*   OP27    - Precision low-noise opamp (8 MHz GBW)
*   NE5532  - Low-noise audio opamp (10 MHz GBW)
*   LM324   - Single-supply quad opamp (1 MHz GBW)
*   LM358   - Single-supply dual opamp (1 MHz GBW)
*   OPA2134 - High-performance audio opamp (8 MHz GBW)
*

*=============================================================================
* LM741 - Classic BJT OpAmp
* A_OL = 200,000 V/V (106 dB)
* GBW = 1 MHz
* Slew Rate = 0.5 V/us
*=============================================================================
.SUBCKT LM741 INP INM OUT VCC VEE
* Input stage
RIN INP INM 2E6
* Input offset
VOS INP 1 2E-3
* Gain stage (single pole at 5 Hz)
E1 2 0 1 INM 200000
R1 2 3 1K
C1 3 0 31.83U
* Output buffer
EOUT 4 0 3 0 1
ROUT 4 OUT 75
* Output limiting
DPOS OUT VCC DCLAMP
DNEG VEE OUT DCLAMP
.MODEL DCLAMP D(IS=1E-15 BV=0.7)
.ENDS LM741

*=============================================================================
* TL072/TL074 - JFET Input OpAmp
* A_OL = 200,000 V/V (106 dB)
* GBW = 3 MHz
* Slew Rate = 13 V/us
*=============================================================================
.SUBCKT TL072 INP INM OUT VCC VEE
* Input stage (high-Z JFET)
RIN INP INM 1E12
* Input offset
VOS INP 1 3E-3
* Gain stage (single pole at 15 Hz)
E1 2 0 1 INM 200000
R1 2 3 1K
C1 3 0 10.61U
* Output buffer
EOUT 4 0 3 0 1
ROUT 4 OUT 100
* Output limiting
DPOS OUT VCC DCLAMP
DNEG VEE OUT DCLAMP
.MODEL DCLAMP D(IS=1E-15 BV=0.7)
.ENDS TL072

* TL074 is identical to TL072
.SUBCKT TL074 INP INM OUT VCC VEE
XU1 INP INM OUT VCC VEE TL072
.ENDS TL074

* TL071 single version
.SUBCKT TL071 INP INM OUT VCC VEE
XU1 INP INM OUT VCC VEE TL072
.ENDS TL071

*=============================================================================
* OP27 - Precision Low-Noise OpAmp
* A_OL = 1,500,000 V/V (124 dB)
* GBW = 8 MHz
* Slew Rate = 2.8 V/us
*=============================================================================
.SUBCKT OP27 INP INM OUT VCC VEE
* Input stage
RIN INP INM 4E6
* Input offset (precision: 30uV)
VOS INP 1 30E-6
* Gain stage (single pole at 5.3 Hz)
E1 2 0 1 INM 1500000
R1 2 3 1K
C1 3 0 30U
* Output buffer
EOUT 4 0 3 0 1
ROUT 4 OUT 70
* Output limiting
DPOS OUT VCC DCLAMP
DNEG VEE OUT DCLAMP
.MODEL DCLAMP D(IS=1E-15 BV=0.7)
.ENDS OP27

* OP37 is high-speed version (same model for basic sim)
.SUBCKT OP37 INP INM OUT VCC VEE
XU1 INP INM OUT VCC VEE OP27
.ENDS OP37

*=============================================================================
* NE5532 - Low-Noise Audio OpAmp
* A_OL = 100,000 V/V (100 dB)
* GBW = 10 MHz
* Slew Rate = 9 V/us
*=============================================================================
.SUBCKT NE5532 INP INM OUT VCC VEE
* Input stage (BJT, lower impedance)
RIN INP INM 300E3
* Input offset
VOS INP 1 500E-6
* Gain stage (single pole at 100 Hz)
E1 2 0 1 INM 100000
R1 2 3 1K
C1 3 0 1.59U
* Output buffer (low Rout for driving)
EOUT 4 0 3 0 1
ROUT 4 OUT 30
* Output limiting
DPOS OUT VCC DCLAMP
DNEG VEE OUT DCLAMP
.MODEL DCLAMP D(IS=1E-15 BV=0.7)
.ENDS NE5532

* SA5532 is identical
.SUBCKT SA5532 INP INM OUT VCC VEE
XU1 INP INM OUT VCC VEE NE5532
.ENDS SA5532

*=============================================================================
* LM324 - Single-Supply Quad OpAmp
* A_OL = 100,000 V/V (100 dB)
* GBW = 1 MHz
* Slew Rate = 0.5 V/us
* Note: Output swings to ground (single-supply operation)
*=============================================================================
.SUBCKT LM324 INP INM OUT VCC VEE
* Input stage
RIN INP INM 2E6
* Input offset
VOS INP 1 2E-3
* Gain stage (single pole at 10 Hz)
E1 2 0 1 INM 100000
R1 2 3 1K
C1 3 0 15.92U
* Output buffer
EOUT 4 0 3 0 1
ROUT 4 OUT 100
* Output limiting (asymmetric for single-supply)
DPOS OUT VCC DCLAMP
DNEG VEE OUT DGROUND
.MODEL DCLAMP D(IS=1E-15 BV=0.7)
.MODEL DGROUND D(IS=1E-15 BV=0.005)
.ENDS LM324

*=============================================================================
* LM358 - Single-Supply Dual OpAmp
* Similar to LM324
*=============================================================================
.SUBCKT LM358 INP INM OUT VCC VEE
XU1 INP INM OUT VCC VEE LM324
.ENDS LM358

*=============================================================================
* OPA2134 - High-Performance Audio OpAmp
* A_OL = 1,000,000 V/V (120 dB)
* GBW = 8 MHz
* Slew Rate = 20 V/us
*=============================================================================
.SUBCKT OPA2134 INP INM OUT VCC VEE
* Input stage (ultra-high-Z FET)
RIN INP INM 1E13
* Input offset
VOS INP 1 500E-6
* Gain stage (single pole at 8 Hz)
E1 2 0 1 INM 1000000
R1 2 3 1K
C1 3 0 19.89U
* Output buffer
EOUT 4 0 3 0 1
ROUT 4 OUT 50
* Output limiting
DPOS OUT VCC DCLAMP
DNEG VEE OUT DCLAMP
.MODEL DCLAMP D(IS=1E-15 BV=0.7)
.ENDS OPA2134

* OPA134 single version
.SUBCKT OPA134 INP INM OUT VCC VEE
XU1 INP INM OUT VCC VEE OPA2134
.ENDS OPA134

*=============================================================================
* Generic Ideal OpAmp (for educational use)
* Very high gain, wide bandwidth
*=============================================================================
.SUBCKT OPAMP_IDEAL INP INM OUT
RIN INP INM 1E12
EOUT OUT 0 INP INM 1E6
.ENDS OPAMP_IDEAL

.END
