GP transient phase contract
VC c 0 2
VB b 0 DC .7 SIN(.7 1u 1.00000000000000000e+09)
Q1 c b 0 mm
.model mm NPN(LEVEL=1 IS=1e-16 BF=100 BR=1 TF=1n PTF=90)
.options RELTOL=1e-7 ABSTOL=1e-16 VNTOL=1e-10 GMIN=0
.control
set numdgt=17
set wr_vecnames
set wr_singlescale
tran 3.99999999999999992e-12 2.00000000000000004e-08 0 3.99999999999999992e-12
wrdata response.tsv i(VC) v(b)
quit
.endc
.end
